US04436726
3-Hexadecanoyloxyoctadecanoic acid (150 mg) prepared by the method described in Preparation 2-(3) and N-hydroxysuccinimide (38 mg) were dissolved in dioxane (2 ml). N,N-Dicyclohexylcarbodiimide (68 mg) was added thereto under ice cooling. The mixture was reached to ambient temperature and stirred at the same temperature overnight. The crystallized urea was filtered off and the filtrate was concentrated to give a residue which was dissolved in N,N-dimethylformamide (7 ml). To this solution was added a solution of N-β-alanyl-L-serine (100 mg) and triethylamine (100 μl) in water (4 ml) at 0° C. The resulting mixture was reached to ambient temperature and stirred at the same temperature overnight. The reaction mixture was acidified with 1 N hydrochloric acid, extracted with ethyl acetate, washed with water and dried over magnesium sulfate. Ethyl acetate was distilled off to give a residue which was subjected to preparative thin layer chromatography (Merck, 0.25 mm×5) and eluted with a mixture of benzene, dioxane and acetic acid (10:5:1). The band containing the object compound was extracted with a mixture of methanol and chloroform (3:7) and the solvent was evaporated off under reduced pressure to afford powder of N-[N-(3-hexadecanoyloxyoctadecanoyl)-β-alanyl]-L-serine (78 mg).

reactant | 3-Hexadecanoyloxyoctadecanoic acid | 150 mg | C(CCCCCCCCCCCCCCC)(=O)OC(CC(=O)O)CCCCCCCCCCCCCCC | C34H66O4
reactant | N-hydroxysuccinimide | 38 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | N-β-alanyl-L-serine | 100 mg | NCCC(=O)N[C@@H](CO)C(=O)O | C6H12N2O4
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | water | 4 ml | O | H2O
solvent | triethylamine | 100 μl | C(C)N(CC)CC | C6H15N
product | N-[N-(3-hexadecanoyloxyoctadecanoyl)-β-alanyl]-L-serine | 78 mg | C(CCCCCCCCCCCCCCC)(=O)OC(CC(=O)NCCC(=O)N[C@@H](CO)C(=O)O)CCCCCCCCCCCCCCC | C40H76N2O7
